US04077956
120 gms. of 5-hydrazino-1,3-dimethyl-4-nitro-1H-pyrazole are dissolved in 500 ml. of absolute ethanol and 173 gms. of ethoxymethylene oxalacetic acid ethyl ester dissolved in 300 ml. of ethanol are slowly added dropwise. After refluxing for 10 hours and distilling off the solvent, the product, 1-(1,3-dimethyl-4-nitro-1H-pyrazol-5-yl)-1H-pyrazole-4,5-dicarboxylic acid, diethyl ester, is obtained as a brown oil, which crystallizes on trituration with cold ether, yield 143 gms. after recrystallization from cyclohexane/benzene, yellow crystals, m.p. 70°-80°.

reactant | 5-hydrazino-1,3-dimethyl-4-nitro-1H-pyrazole | N(N)C1=C(C(=NN1C)C)[N+](=O)[O-] | C5H9N5O2
reactant | ethoxymethylene oxalacetic acid ethyl ester | C(C)OC(C(C(=O)C(=O)O)=COCC)=O | C9H12O6
reactant | ethanol | C(C)O | C2H6O
product | 1-(1,3-dimethyl-4-nitro-1H-pyrazol-5-yl)-1H-pyrazole-4,5-dicarboxylic acid, diethyl ester | CN1N=C(C(=C1N1N=CC(=C1C(=O)OCC)C(=O)OCC)[N+](=O)[O-])C | C14H17N5O6
